US06855710B2
(Z)-3-[1-(3-dimethylaminocarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 21 from (Z)-3-[1-(3-carboxyphenylamino)-1-phenyl-methylidene]-2-indolinone, dimethylamine-hydrochloride, TBTU, HOBt and triethylamine in DMF.

reactant | (Z)-3-[1-(3-carboxyphenylamino)-1-phenyl-methylidene]-2-indolinone | C(=O)(O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H16N2O3
reactant | dimethylamine-hydrochloride | Cl.CNC
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (Z)-3-[1-(3-dimethylaminocarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | CN(C(=O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C24H21N3O2
